US07700628B2
B. 2-[2-(2-tert-Butoxycarbonylaminoethoxy)-4-(morpholin-4-yl)benzoylamino]-N-(5-chloropyridin-2-yl)-5-fluorobenzamide
A mixture of 2-[2-(2-tert-butoxycarbonylaminoethoxy)-4-fluorobenzoylamino]-N-(5-chloropyridin-2-yl)-5-fluorobenzamide (0.8 g, 1.5 mmol), morpholine (10 mL), and K2CO3 (0.2 g) was heated in a sealed tube at 100° C. for 12 hours and then 120° C. for 4 h.

reactant | 2-[2-(2-tert-butoxycarbonylaminoethoxy)-4-fluorobenzoylamino]-N-(5-chloropyridin-2-yl)-5-fluorobenzamide | 1.5 mmol, 0.8 g | C(C)(C)(C)OC(=O)NCCOC1=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=C(C=C2)F)C=CC(=C1)F | C26H25ClF2N4O5
reactant | K2CO3 | 0.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | morpholine | 10 mL | N1CCOCC1 | C4H9NO
product | 2-[2-(2-tert-Butoxycarbonylaminoethoxy)-4-(morpholin-4-yl)benzoylamino]-N-(5-chloropyridin-2-yl)-5-fluorobenzamide | C(C)(C)(C)OC(=O)NCCOC1=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=C(C=C2)F)C=CC(=C1)N1CCOCC1 | C30H33ClFN5O6
